US03948906
Preparation of cephaloridine
3-Dichloroacetoxymethyl-7β-(2'-thienylacetamido)ceph-3-em-4-carboxylic acid (0.1 g., 2.15 mmole.) was suspended in water (4 ml.), and pyridine (0.352 ml., 4.3 mmole.) was added. The solution was heated at 50° for 1 hour, acidified to pH 4.5 with acetic acid, and washed with ethyl acetate and finally with petrol. The aqueous solution was freed from dissolved organic solvents and applied to a column comprising (from top to bottom) layers of deactivated neutral alumina (8 ml.), Dowex 1 (AcO-) (20 ml.) and Zeokarb 226 (H+) (5 ml.). Elution with water was carried out until the eluate showed no optical rotation; the total eluate was freeze-dried and the residue triturated with methanol to give a white solid (296 mg.), [α]D23 +48.8° (c 0.8, water), λλmax (water) 238nm (E1cm1% = 351), 255 nm (E1cm1% = 324).

reactant | 3-Dichloroacetoxymethyl-7β-(2'-thienylacetamido)ceph-3-em-4-carboxylic acid | 2.15 mmole, 0.1 g | ClC(C(=O)OCC=1CS[C@H]2N(C1C(=O)O)C([C@H]2NC(CC=2SC=CC2)=O)=O)Cl | C16H14Cl2N2O6S2
reactant | pyridine | 4.3 mmole, 0.352 ml | N1=CC=CC=C1 | C5H5N
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | 4 ml | O | H2O
product | cephaloridine | C=1C=C[N+](=CC1)CC2=C(N3[C@@H]([C@@H](C3=O)NC(=O)CC4=CC=CS4)SC2)C(=O)[O-] | C19H17N3O4S2
